US08802659B2
3-{2-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-ethylamino}-propionic acid
A solution of 3-{2-[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-yl]-ethylamino}-propionic acid tert-butyl ester (13 mg, 0.028 mmol) in 4 M of HCl in 1,4-dioxane (0.50 mL) was stirred at room temperature overnight. After the solvent was concentrated, the crude was purified via HPLC to give white solid (7 mg, yield: 49%). ESI-MS: 398.30 (M+H)+. 1H NMR (400 MHz, MeOD) δ 7.73 (d, 1H), 7.70 (d, 1H), 7.65 (s, 1H), 7.33 (dd, 1H), 7.21 (d, 1H), 7.09 (dd, 1H), 4.31 (m, 1H), 3.41-3.31 (m, 4H), 3.14 (t, 2H), 2.74 (t, 2H), 2.25 (d, 2H), 1.89 (d, 2H), 1.40 (m, 2H), 1.24 (m, 2H), 1.10 (m, 1H), 0.90 (s, 9H).

reactant | 3-{2-[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-yl]-ethylamino}-propionic acid tert-butyl ester | 0.028 mmol, 13 mg | C(C)(C)(C)OC(CCNCCC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C29H43NO3
solvent | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
product | 3-{2-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-ethylamino}-propionic acid | 7 mg, yield: 49% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CCNCCC(=O)O | C25H35NO3
